US05914332
A. 2,6-Dimethylphenoxyacetic acid
2,6-Dimethylphenol (102.8 g, 0.842 mol) and chloroacetic acid (159.6 g, 1.68 mol) in 1000 ml of H2O was added to a 3-L, 3-necked round bottom flask with mechanical stirring and a water-cooled condenser. A solution of NaOH (134.9 g, 3.37 mol) dissolved in 500 ml of water was slowly added to the above mixture via addition funnel and heat to reflux. After 2 hours, additional chloroacetic acid (79.4 g, 0.84 mol) and NaOH solution (67.2 g, 1.68 mol in in 200 ml water) was added to the reaction mixture. After 19 hours, additional chloroacetic acid (39.8 g, 0.42 mol) and NaOH solution (33.6 g, 0.84 mol in in 100 ml water) was added to the reaction mixture and refluxing was continued until starting phenol was consumed. The reaction flask was cooled in and ice-water bath and acidified to pH=1 with conc. HCl, causing a precipitate to form. The resulting slurry was stirred in the ice bath for 1 hour then filtered. The solid was dissolved in hot (100° C.) water and cooled to crystallize the product as white plates, mp=136-137° C., yield=78.8 g, 52%.

reactant | 2,6-Dimethylphenol | 0.842 mol, 102.8 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | chloroacetic acid | 1.68 mol, 159.6 g | ClCC(=O)O | C2H3ClO2
reactant | NaOH | 3.37 mol, 134.9 g | [OH-].[Na+]
reactant | chloroacetic acid | 0.84 mol, 79.4 g | ClCC(=O)O | C2H3ClO2
reactant | NaOH | 1.68 mol, 200 ml, 67.2 g | [OH-].[Na+]
reactant | chloroacetic acid | 0.42 mol, 39.8 g | ClCC(=O)O | C2H3ClO2
reactant | NaOH | 0.84 mol, 100 ml, 33.6 g | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | H2O | 1000 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 2,6-Dimethylphenoxyacetic acid | CC1=C(OCC(=O)O)C(=CC=C1)C | C10H12O3
